US03984431
228 Grams of crude ethyl 1-benzyl-3,4-diphenylpyrazole-5-carboxylate (prepared as described below) dissolved in 3200 ml of anhydrous diethyl ether are added, at 0°C and under a nitrogen atmosphere, to 47 grams of lithium aluminium hydride suspended in 1600 ml of anhydrous diethyl ether. The solution is stirred overnight at ambient temperature and then cooled to 0° C, whereupon 55 ml of water, 20.2 ml of 10N soda and 83 ml of water are slowly and successively added under a nitrogen atmosphere, and the resulting precipitate is filtered. The filtrate is evaporated under reduced pressure and the residue is dissolved in 360 ml of di-isopropyl ether. 1 -Benzyl-3,4-diphenyl-5-hydroxymethylpyrazole melting at 138° C is thus obtained.

reactant | ethyl 1-benzyl-3,4-diphenylpyrazole-5-carboxylate | C(C1=CC=CC=C1)N1N=C(C(=C1C(=O)OCC)C1=CC=CC=C1)C1=CC=CC=C1 | C25H22N2O2
reactant | lithium aluminium hydride | 47 grams | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 55 ml | O | H2O
reactant | water | 83 ml | O | H2O
solvent | diethyl ether | 3200 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 1600 ml | C(C)OCC | C4H10O
product | 1 -Benzyl-3,4-diphenyl-5-hydroxymethylpyrazole | C(C1=CC=CC=C1)N1N=C(C(=C1CO)C1=CC=CC=C1)C1=CC=CC=C1 | C23H20N2O
